US05872115
Step 1): A solution of 5-hydroxyanthranilic acid (500 mg, 3.26 mmol) and triphosgene (1.45 g, 4.9 mmol) in 1,4-dioxane (20 ml) was refluxed overnight. The reaction mixture was poured into H2O (30 ml), and then the precipitates were filtered and dried to give 6-hydroxy-1,2-dihydro-4H-3,1-benzoxazin-2,4-dione, 360 mg (62%).

reactant | 5-hydroxyanthranilic acid | 3.26 mmol, 500 mg | OC1=CC=C(C(C(=O)O)=C1)N | C7H7NO3
reactant | triphosgene | 4.9 mmol, 1.45 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | H2O | 30 ml | O | H2O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 6-hydroxy-1,2-dihydro-4H-3,1-benzoxazin-2,4-dione | OC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H5NO4
